US06110962
(2-Benzyl-6-methoxy-benzo[b]thiophen-3-yl)-(4-methoxy-phenyl)-methanone
Tin tetrachloride (2.0 mL, 17.09 mmol) was added dropwise over a 10 minute period to a stirred, -78° C. solution of 2-benzyl-6-methoxy-benzo[b]thiophene (2.71 g, 10.65 mmol), anisoyl chloride (1.93 g, 11.29 mmol) and dichloromethane (41 mL) under a dry nitrogen atmosphere. After 1 hours at -78° C., the reaction mixture was slowly warmed to room temperature and stirred for 16 h period. The reaction mixture was added to water and extracted with ether. The ether phase was washed with brine and silica gel was added to it. The solvent was removed and the adsorbate was flash chromatographed (eluent: 9:1 petroleum ether: ethyl acetate) to provide the title compound as a white solid (2.42 g, 58%): mp 110-112° C.: NMR (CDCl3); δ 7.84 (d, J=9 Hz, 2H), 7.31-7.18 (m, 7H), 7.92 (d, J=9 Hz, 2H), 6.97 (dd, J=9, 2 Hz, 1H), 4.17 (s, 2H), 3.88 (s, 3H), 3.883 (s, 3H); MS (FAB+): 389 (80%, M+H); Anal. Calc. for C24H20O3S: C, 74.20, H, 5.19, N, 0.00. Found: C, 74.94, H, 5.10, N, 0.03.

reactant | Tin tetrachloride | 17.09 mmol, 2.0 mL | [Sn](Cl)(Cl)(Cl)Cl
reactant | 2-benzyl-6-methoxy-benzo[b]thiophene | 10.65 mmol, 2.71 g | C(C1=CC=CC=C1)C1=CC2=C(S1)C=C(C=C2)OC | C16H14OS
reactant | anisoyl chloride | 11.29 mmol, 1.93 g | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
reactant | dichloromethane | 41 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (2-Benzyl-6-methoxy-benzo[b]thiophen-3-yl)-(4-methoxy-phenyl)-methanone | 2.42 g, 58% | C(C1=CC=CC=C1)C1=C(C2=C(S1)C=C(C=C2)OC)C(=O)C2=CC=C(C=C2)OC | C24H20O3S
